US06281227B1
D. Benzothiophene-2-sulfonic acid [1-(4-chloroquinolin-6-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide
3-(S)-Amino-1-(4-chloroquinolin-6-ylmethyl)-pyrrolidin-2-one hydrochloride (0.12 g, 0.38 mmol) is suspended in 15 mL CH3CN. To this solution is added triethylamine (110 mL, 0.79 mmol) followed by benzothiophene-2-sulfonyl chloride (0.094 g, 0.40 mmol). The mixture is stirred overnight at room temperature, subjected to aqueous work up then concentrated to dryness. The crude product is purified by column chromatography eluting with 2-10% MeOH/CH2Cl2 to give the title compound (0.11 g, 0.23 mmol) as an off-white solid.

reactant | 3-(S)-Amino-1-(4-chloroquinolin-6-ylmethyl)-pyrrolidin-2-one hydrochloride | 0.38 mmol, 0.12 g | Cl.N[C@@H]1C(N(CC1)CC=1C=C2C(=CC=NC2=CC1)Cl)=O
reactant | triethylamine | 0.79 mmol, 110 mL | C(C)N(CC)CC | C6H15N
reactant | benzothiophene-2-sulfonyl chloride | 0.40 mmol, 0.094 g | S1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO2S2
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | Benzothiophene-2-sulfonic acid [1-(4-chloroquinolin-6-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | 0.23 mmol, 0.11 g | ClC1=CC=NC2=CC=C(C=C12)CN1C([C@H](CC1)NS(=O)(=O)C=1SC2=C(C1)C=CC=C2)=O | C22H18ClN3O3S2
